US08980907B2
Synthesis of the indoquinone-Naloxone linker involves multiple steps. Starting from 2-methyl-5-methoxyindole, alkylation on nitrogen with sodium hydride and t-butyl 4-bromobutanoate, followed by formylation provides the 3-formyl indole. After the nitration reaction, the 4-NO2 group is reduced to the amino group. Treatment with Fremy's salt produces the indoquinone structure. The 3-formyl group is reduced and converted to 4-NO2-phenyl carbonate compound A. Morphine is converted to the carbamate compound B through an activated carbonate intermediate. Compounds A and B are combined in the presence of an amine in DMF to provide the completed drug-linker unit after an acid catalyzed t-butyl ester hydrolysis (Scheme 9).

reactant | 2-methyl-5-methoxyindole | CC=1NC2=CC=C(C=C2C1)OC | C10H11NO
reactant | sodium hydride | [H-].[Na+]
reactant | t-butyl 4-bromobutanoate | BrCCCC(=O)OC(C)(C)C | C8H15BrO2
product | 3-formyl indole | C(=O)C1=CNC2=CC=CC=C12 | C9H7NO
